US06930106B2
4-{[2-nitro-4-(trifluoromethyl)phenyl]amino}benzonitrile (986 mg, 3.21 mmol) is added to a round-bottomed flask and then flushed with nitrogen. The solid is dissolved in methanol (20 mL) and THF (80 mL) and then the solution is cooled to 0° C. NiCl2 (416 mg, 3.21 mmol) and Boc2O (1.05 g, 4.82 mmol) are added, followed by NaBH4 (1.21 g, 32.1 mmol), which is slowly added with vigorous effervescence. The solution is warmed to room temperature and after 2 hr, the reaction mixture is concentrated and then saturated NaHCO3 (50 mL) and EtOAc (50 mL) are added. The organic phase is separated, dried (Na2SO4), and purified (gradient 1% EtOAc/Hexane-20% EtOAc/Hexane) to afford tert-butyl 4-{[2-amino-4-(trifluoromethyl)phenyl]amino}benzylcarbamate as a tan oil. The yield is 821 mg (67%).

reactant | 4-{[2-nitro-4-(trifluoromethyl)phenyl]amino}benzonitrile | 3.21 mmol, 986 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)NC1=CC=C(C#N)C=C1 | C14H8F3N3O2
reactant | Boc2O | 4.82 mmol, 1.05 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaBH4 | 32.1 mmol, 1.21 g | [BH4-].[Na+]
catalyst | NiCl2 | 3.21 mmol, 416 mg | Cl[Ni]Cl
product | tert-butyl 4-{[2-amino-4-(trifluoromethyl)phenyl]amino}benzylcarbamate | NC1=C(C=CC(=C1)C(F)(F)F)NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C19H22F3N3O2
